US05753664
2-[4-(4-Chlorobenzoyl)benzylthio]-3-methylpyrido-[2,3-d]pyrimidin-4-one
To a solution of 3-methylpyrido[2,3-d]pyrimidin-4-one-2-thione (193 mg) in DMF (5 ml) were added sodium hydride (60 mg) and 4-(4-chlorobenzoyl)benzyl bromide (310 mg) and the mixture was stirred at room temperature for 30 minutes. The reaction mixtrue was then diluted with saturated aqueous NaHCO3 solution and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate and the solvent was then distilled off. The residue was recrystallized (ethyl acetate-ether-hexane) to provide the title compound as white powder (162 mg, 38%). 1H-NMR (CDCl3) δ: 3.62(3H,s), 4.73(2H,s), 7.26-7.79(9H,m), 8.54-8.61(1H,m), 8.90-8.95(1H,m).

reactant | 3-methylpyrido[2,3-d]pyrimidin-4-one-2-thione | 193 mg | CN1C(NC2=C(C1=O)C=CC=N2)=S | C8H7N3OS
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 310 mg | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[4-(4-Chlorobenzoyl)benzylthio]-3-methylpyrido-[2,3-d]pyrimidin-4-one | 162 mg, 38% | ClC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)N=CC=C4)=O)C)C=C2)C=C1 | C22H16ClN3O2S
